US07915424B2
3-Bromo-5-methylsulfanylpyridine
Add 1,8-diazabicyclo[5.4.0]undec-7-ene (0.8 mL, 5.28 mmol) to a solution of 3-bromo-5-iodopyridine (500 mg, 1.76 mmol), (prepared as described in PREPARATION 21), sodium methanethiolate (370 mg, 5.28 mmol) and copper bromide (50.2 mg, 0.35 mmol) in toluene (3 mL). Stir in a sealed flask at 90° C. overnight and then partition between water and ethyl acetate. Separate the organic layer and wash with an aqueous saturated solution of sodium chloride. Dry (magnesium sulfate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with hexane:ethyl acetate, to give the title compound (250 mg, 70%).

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.28 mmol, 0.8 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-bromo-5-iodopyridine | 1.76 mmol, 500 mg | BrC=1C=NC=C(C1)I | C5H3BrIN
reactant | sodium methanethiolate | 5.28 mmol, 370 mg | C[S-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper bromide | 0.35 mmol, 50.2 mg | [Cu](Br)Br
product | 3-Bromo-5-methylsulfanylpyridine | 250 mg, 70% | BrC=1C=NC=C(C1)SC | C6H6BrNS
